US07612089B2
B. Preparation of N-(3-cyanobenzyl)-2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide
To a solution of 2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (291 mg, 0.880 mmol) and 3-cyanobenzylamine (140 mg, 1.06 mmol) in DMF (7 mL), EDC (254 mg, 1.32 mmol) was added. The mixture was then stirred at room temperature overnight. H2O and EtOAc were added. The organic layer was separated, washed with 1N HCl, dried over Na2SO4, concentrated in vacuo to give a solid. After being trituated with EtOAc/MeOH/CH2Cl2, the white solid was collected, dried on vacuum (148 mg), which was pure enough for the next reaction.

reactant | (4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.880 mmol, 291 mg | ClC1=CC=C(C=C1)NC(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C17H15ClN2O3
reactant | 3-cyanobenzylamine | 1.06 mmol, 140 mg | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | EDC | 1.32 mmol, 254 mg
reactant | H2O | O | H2O
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc MeOH CH2Cl2 | CCOC(=O)C.CO.C(Cl)Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-cyanobenzyl)-2N-(4-chlorophenylaminocarbonyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxamide | C(#N)C=1C=C(CNC(=O)C2N(CC3=CC=CC=C3C2)C(=O)NC2=CC=C(C=C2)Cl)C=CC1 | C25H21ClN4O2
